US05128448
A Fisher-Porter pressure bottle was charged with 3-bromoquinoline (2.77 mL, 20 mmol), methyl acrylate (2.25 mL, 25 mmol), palladium diacetate (44 mg, 0.2 mmol), and tri-o-tolylphosphine (244 mg, 0.802 mmol) in Et3N (10 mL). The atmosphere was replaced with argon, the bottle sealed and the mixture was stirred and heated at 100° C. for 6 h. The cooled mixture was partitioned between CH2Cl2 (200 mL) and H2O (100 mL) and the aqueous layer was extracted with CH2Cl2 (2×100 mL). The combined organic layers were washed with H2O (100 mL) dried (Na2SO4) and concentrated to give 5.56 g of crude product which was purified by silica gel chromatography, eluting with a mixture of EtOAc and hexane in (1:1) to give (E)-3-(3-quinolinyl)-2-propenoic acid methyl ester (4.26 g, 20 mmol) in quantitative yield, mp 118° -120° C.

reactant | 3-bromoquinoline | 20 mmol, 2.77 mL | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | methyl acrylate | 25 mmol, 2.25 mL | C(C=C)(=O)OC | C4H6O2
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | palladium diacetate | 0.2 mmol, 44 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | tri-o-tolylphosphine | 0.802 mmol, 244 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | (E)-3-(3-quinolinyl)-2-propenoic acid methyl ester | 20 mmol, 4.26 g, quantitative yield | COC(\C=C\C=1C=NC2=CC=CC=C2C1)=O | C13H11NO2
